US07119200B2
3-(2-tert-Butoxycarbonylaminoethyl)piperidine (500 mg, 2.19 mmoles) was dissolved in anhydrous dichloromethane (10 mL) and trimethylsilylisocyanate (2.96 mL, 21.9 mmoles) was added. The mixture was stirred under argon at 25° C. for 3.35 h. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate. The organic layer was dried (MgSO4), filtered, evaporated to dryness and chromatographed on a silica gel column (15×5 cm) using 5% (10% conc. ammonium hydroxide in methanol)-dichloromethane as the eluant to give 3-(2-tert-butoxycarbonylaminoethyl)piperidine-1-carboxamide (417.7 mg, 70%): FABMS: m/z 272.0 (MH+); HRFABMS: m/z 272.1979 (MH+). Calcd. for C13H26O3: m/z (9H, s, —COOC(CH3)3), 1.68 (1H, m, CH2), 1 84 (1H, m, CH2), 2.54 (1H, dd, CH2), 2.73 (1H, m, CH2), 3.08 (1H, m, CH2), 3.42 (1H, m, CH2), 4.02 (1H, m, CH2), 410 (1H, m, CH2), 4.84 (1H, m, NH) and 4.96 ppm (2H, bm, CONH2); δc (CDCl3) CH3: 28.5, 28.5, 28.5; CH2: 25.2, 31.7, 34.9, 37.3, 44.6, 50.3; CH: 32.9; C: 79.5, 156.4, 158.2.

reactant | 3-(2-tert-Butoxycarbonylaminoethyl)piperidine | 2.19 mmoles, 500 mg | C(C)(C)(C)OC(=O)NCCC1CNCCC1 | C12H24N2O2
reactant | trimethylsilylisocyanate | 21.9 mmoles, 2.96 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(2-tert-butoxycarbonylaminoethyl)piperidine-1-carboxamide | 417.7 mg, 70% | C(C)(C)(C)OC(=O)NCCC1CN(CCC1)C(=O)N | C13H25N3O3
